US06432988B1
c) 2-(4-Fluorophenyl)-1-(4-pyridyl)ethanone oxime
21.5 g (0.1 mol) of 2-(4-fluorophenyl)-1-(4-pyridyl)-ethanone was suspended in 330 ml of 50% aqueous methanol. After addition of 36.1 g (0.44 mol) of sodium acetate and 22.0 g (0.32 mol) of hydroxylamine hydrochloride, the reaction mixture was refluxed for 1 h with stirring. On cooling in an ice bath, the title compound deposited as a beige-colored precipitate. The precipitate was filtered off, washed with dist. water and dried over P2O5 in vacuo. Yield: 14.3 g (62%).

reactant | 2-(4-fluorophenyl)-1-(4-pyridyl)-ethanone | 0.1 mol, 21.5 g | FC1=CC=C(C=C1)CC(=O)C1=CC=NC=C1 | C13H10FNO
reactant | sodium acetate | 0.44 mol, 36.1 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.32 mol, 22.0 g | Cl.NO
solvent | methanol | 330 ml | CO | CH4O
product | 2-(4-Fluorophenyl)-1-(4-pyridyl)ethanone oxime | FC1=CC=C(C=C1)CC(=NO)C1=CC=NC=C1 | C13H11FN2O
